US04166852
(a) 2-Acetylamino-4,6-dioxo-5-methyl-pyrimidine
80 parts of 2-amino-4,6-dioxo-5-methyl-pyrimidine are treated for 8 hours under reflux in a mixture comprising 500 parts by volume of acetic acid and 108 parts by volume of acetic anhydride. 87 parts of the desired product are obtained by filtration, washing with ether and drying in vacuo.

reactant | 2-amino-4,6-dioxo-5-methyl-pyrimidine | NC=1NC(C(C(N1)=O)C)=O | C5H7N3O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Acetylamino-4,6-dioxo-5-methyl-pyrimidine | C(C)(=O)NC=1NC(C(C(N1)=O)C)=O | C7H9N3O3
